US04939066
Synthesis of 4-Chloro-3-nitrobenzenesulfonyl Chloride
To a solution mixture of 1,280 g of potassium 4-chloro-3-nitrobenzenesulfonate in 1,150 ml of acetonitrile, 250 ml of sulfolane and 30 ml of dimethylacetamide was added dropwise 1,250 ml of phosphorus oxychloride while the temperature was kept at 60° to 70° C. After the reaction proceeded for 3 hours at 73° C., the reaction mixture was cooled with water, then 400 ml of water was added thereto gradually, and then 5 liters of ice water was poured into the reaction mixture. The deposited crystals were filtered followed by washing with water and drying.

reactant | potassium 4-chloro-3-nitrobenzenesulfonate | 1,280 g | ClC1=C(C=C(C=C1)S(=O)(=O)[O-])[N+](=O)[O-].[K+]
reactant | phosphorus oxychloride | 1,250 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
reactant | water | 400 ml | O | H2O
solvent | acetonitrile | 1,150 ml | C(C)#N | C2H3N
solvent | sulfolane | 250 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | 4-Chloro-3-nitrobenzenesulfonyl Chloride | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
